datasets/10k__Tet_Int.csv
SMILES Labelled
"[Na][O:21]CCCCCC.[C:20](=[O:10])(OCCCCCC)OCC>>[Na][O+:21]([C:20]([O-:10])(OCCCCCC)OCC)CCCCCC 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C)CC)CC.[O-:21]CCCCCC>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CC)CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C8=CC=CC=C8)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][O:10]C(CC)C(C)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CCCCCC)[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CCCCCC)[H] 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(CC)C(C)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(CC)C(C)[S]1 10=20;20,21=21"
"[O:10]([Na])C(C)C(O)C([C:20](C)=[O:21])O>>[O-:21][C:20]1(C)[O+:10]([Na])C(C)C(O)C1O 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[OH:21][C:20]1(OCC)C(C)C(O)C(C)C(C)[OH+:10]1>>[OH:10]C(C)C(C)C(O)C(C)[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(CC)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C)[O]CC.[Cl-]>>[Cl-].C[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C)[O]CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(CC)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C(C)[CH](CC)[O]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][O:10]C(C)C([H])C(C)[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C)[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(CC)[O]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(CC)[O][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(CC)[S][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(CC)[S]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[S]C7=CC=CC=C7 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][O:10]C([H])C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O:10]C([H])C(O)C1[H]>>[O-:10]C([H])C(O)C([C:20](OC)=[O:21])[H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[O:10]([Na])C(CCC)C([H])/C([H])=C(C)\[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)=C([H])C([H])C(CCC)[O+:10]1([Na]) 10=20;20,21=21"
"[H][O:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(CC)[O][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"CCCCCCC1C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CCCCCC>>CCCCCCC1C(O[C:20](=[O:10])N1C)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)C)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)C)[O-:10])CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[O:10]([Na])C(CC)C([H])C([H])C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C([H])C([H])C(CC)[O+:10]1([Na]) 10=20;20,21=21"
